US06897210B2
Sodium (148 mg, 6.4 mmol) was added to 2-methoxyethanol (10 ml), the mixture stirred for 15 minutes to give a complete solution and the volatiles removed by evaporation. The residue was dissolved in DMSO (5 ml) and 7-chloro-4-(4-chloro-2-fluoroanilino)-6 nitroquinazoline hydrochloride (500 mg, 1.3 mmol) was added. The mixture was stirred at ambient temperature for 18 hours then diluted with a solution of acetic acid (1 ml) in water (20 ml). The resulting precipitate was collected by filtration, washed with water, dried and purified by column chromatography eluting with methylene chloride/methanol (96/4). The purified product was recrystallized from methylene chloride/isohexane to give 4-(4-chloro-2-fluoroanilino)-1-(2-methoxyethoxy)-6-nitroquinazoline (304 mg, 60%) as a yellow solid.

reactant | Sodium | 6.4 mmol, 148 mg | [Na] | Na
reactant | 2-methoxyethanol | 10 ml | COCCO | C3H8O2
reactant | 7-chloro-4-(4-chloro-2-fluoroanilino)-6 nitroquinazoline hydrochloride | 1.3 mmol, 500 mg | Cl.ClC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)[N+](=O)[O-]
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
product | 4-(4-chloro-2-fluoroanilino)-1-(2-methoxyethoxy)-6-nitroquinazoline | 304 mg, 60% | ClC1=CC(=C(NC2=NCN(C3=CC=C(C=C23)[N+](=O)[O-])OCCOC)C=C1)F | C17H16ClFN4O4
